US08241763B2
b) 2-[1-(Dibenzofuran-2-yl)naphthalen-2-yl]propan-2-ol
Procedure analogous to Example 1b). Instead of 100.6 g (256 mmol) of ethyl 1-(9,9-dimethyl-9H-fluoren-2-yl)naphthalene-2-carboxylate, 55.0 g (150 mmol) of ethyl 1-(dibenzofuran-2-yl)naphthalene-2-carboxylate are employed, the molar amount of the other reagents is adapted correspondingly. Yield: 41.8 g (79%) of a colourless solid.

reactant | ethyl 1-(9,9-dimethyl-9H-fluoren-2-yl)naphthalene-2-carboxylate | 256 mmol, 100.6 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C1=C(C=CC2=CC=CC=C12)C(=O)OCC)C | C28H24O2
reactant | ethyl 1-(dibenzofuran-2-yl)naphthalene-2-carboxylate | 150 mmol, 55.0 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C3=C(C=CC2=CC=CC=C32)C(=O)OCC | C25H18O3
product | 2-[1-(Dibenzofuran-2-yl)naphthalen-2-yl]propan-2-ol | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C3=C(C=CC2=CC=CC=C32)C(C)(C)O | C25H20O2
